US04956371
A solution of 3,4-dimethoxybenzoic acid (9.1 g, 0.05 mol) and carbonyldiimidazole (8.1 g, 0.05 mol) in 100 ml of THF was stirred for 3 h protected from moisture. The resulting solution was treated with 2-phenylethylamine (6.1 g, 0.05 mol) dissolved in 10 ml of THF. After 2 h of stirring, the solvent was evaporated and the solid residue was washed with dilute NaOH, dilute HCl, and water. The crude Al was recrystallized from 75 ml of EtOH to afford 9.35 g (57%) of N-(3,4-dimethoxybenzoyl)-2-phenylethylamine, mp 123-124°.

reactant | 3,4-dimethoxybenzoic acid | 0.05 mol, 9.1 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | carbonyldiimidazole | 0.05 mol, 8.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-phenylethylamine | 0.05 mol, 6.1 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(3,4-dimethoxybenzoyl)-2-phenylethylamine | 9.35 g, 57% | COC=1C=C(C(=O)NCCC2=CC=CC=C2)C=CC1OC | C17H19NO3
